US20010016659A1
To a solution of 4-chloro-3-(trifluoromethyl)phenyl isocyanate (2.27 g, 10.3 mmol) in CH2Cl2(308 mL) was added p-phenylenediamine (3.32 g, 30.7 mmol) in one part. The resulting mixture was stirred at room temp. for 1 h, treated with CH2Cl2(100 mL), and concentrated under reduced pressure. The resulting pink solids were dissolved in a mixture of EtOAc (110 mL) and MeOH (15mL), and the clear solution was washed with a 0.05 N HCl solution. The organic layer was concentrated under reduced pressure to afford impure N-(4-chloro-3-(trifluoromethyl)phenyl)-N′-(4-aminophenyl) urea (3.3 g): TLC (100% EtOAc) Rf 0.72.

reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 10.3 mmol, 2.27 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | p-phenylenediamine | 30.7 mmol, 3.32 g | C1=CC(=CC=C1N)N | C6H8N2
solvent | CH2Cl2 | 308 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-(trifluoromethyl)phenyl)-N′-(4-aminophenyl) urea | 3.3 g | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N)C(F)(F)F | C14H11ClF3N3O
